US09056881B2
2-(Allyloxy)ethyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)O—CH2CH2OCH2CH═CH2, (2.407 g; 6.2 mmol) is slowly added dropwise to dry and cooled (0° C.) pyridine (0.502 g; 6.3 mmol) in a 25 ml glass flask. An orange, more highly viscous solution forms spontaneously, which is stirred at 0° C. for 1 h, warmed and stirred at room temperature for 2 h. The readily volatile constituents are removed in vacuo (10−3 mbar) at room temperature. N-[2-(Allyloxy)ethyl]pyridinium bis(pentafluoroethyl)phosphinate, [CH2═CHCH2OCH2CH2Py][(C2F5)2P(O)O], is isolated (2.829 g; 6.1 mmol) as highly viscous, intensely red-brown liquid in quantitative yield and a purity of 89%.

reactant | 2-(Allyloxy)ethyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OCCOCC=C)(=O)C(C(F)(F)F)(F)F | C9H9F10O3P
reactant | (C2F5)2P(O)O—CH2CH2OCH2CH═CH2 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OCCOCC=C | C9H9F10O3P
reactant | pyridine | 6.3 mmol, 0.502 g | N1=CC=CC=C1 | C5H5N
product | N-[2-(Allyloxy)ethyl]pyridinium bis(pentafluoroethyl)phosphinate | quantitative yield | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(C=C)OCC[N+]1=CC=CC=C1 | InChI=1S/C10H14NO.C4HF10O2P/c1-2-9-12-10-8-11-6-4-3-5-7-11;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h2-7H,1,8-10H2;(H,15,16)/q+1;/p-1
